US06869729B1
2,5-dicarboxy-3,4-dihydroxythiophene.
EtOH (30 mL) was added to 2,5-dicarbethoxy-3,4-dihydroxythiophene (1 g). A solution of NaOH (4.0 g) in H2O (20 mL) was added and refluxed under N for 20 h. Upon cooling to ambient temperature the EtOH was removed by distillation and the residue was redissolved in H2O then acidified with 15% HClaq when a white ppt was obtained This product was collected by filtration and washed with cold H2O then crystallized from dilute MeOH to give colorless needles.

reactant | EtOH | 30 mL | CCO | C2H6O
reactant | 2,5-dicarbethoxy-3,4-dihydroxythiophene | 1 g | C(=O)(OCC)C=1SC(=C(C1O)O)C(=O)OCC | C10H12O6S
reactant | NaOH | 4.0 g | [OH-].[Na+]
solvent | H2O | 20 mL | O | H2O
product | 2,5-dicarboxy-3,4-dihydroxythiophene | C(=O)(O)C=1SC(=C(C1O)O)C(=O)O | C6H4O6S
